US08084620B2
Step 3 A solution of crude 5-bromo-2-formyl-2,3,4,9-tetrahydro-1H-carbazole-8-carboxamide (1 g, 3.11 mmol) in DCM (20 mL) was treated with ammonium acetate (3.60 g, 46.7 mmol) and sodium triacetoxyborohydride (0.990 g, 4.67 mmol) at rt and stirred for 10 min. THF (2 mL) was added to try to dissolve the starting material, but no reaction was observed after 1 h. The mixture was concentrated and the residue was dissolved in DMSO (10 mL). Additional sodium triacetoxyborohydride (500 mg) was added and the mixture was stirred at rt overnight. The mixture was diluted with water and the precipitate was removed by filtration. The filtrate was treated with 1 M aqueous sodium hydroxide and extracted three times with EtOAc. The combined organic phases were washed with water, dried and concentrated to provide 2-(aminomethyl)-5-bromo-2,3,4,9-tetrahydro-1H-carbazole-8-carboxamide as a white solid (130 mg, 13%), used without further purification. Mass spectrum m/z 322, 324 (M+H)+.

reactant | 5-bromo-2-formyl-2,3,4,9-tetrahydro-1H-carbazole-8-carboxamide | 3.11 mmol, 1 g | BrC1=C2C=3CCC(CC3NC2=C(C=C1)C(=O)N)C=O | C14H13BrN2O2
reactant | ammonium acetate | 46.7 mmol, 3.60 g | C(C)(=O)[O-].[NH4+]
reactant | sodium triacetoxyborohydride | 4.67 mmol, 0.990 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(aminomethyl)-5-bromo-2,3,4,9-tetrahydro-1H-carbazole-8-carboxamide | 130 mg, 13% | NCC1CC=2NC3=C(C=CC(=C3C2CC1)Br)C(=O)N | C14H16BrN3O
